US07754897B2
A solution of compound (1R,2R)-1-{2-[2-(4-benzyloxy-3-methoxyphenyl)ethoxy]cyclohexyl}-(3R)-pyrrolidin-3-ol (50.3 g, 100 mmol) in methanol (250 mL) was transferred to a Parr shaker bottle that has previously been charged with Pd/C (10% wt/wt, 4.0 g) as a slurry in water. The bottle was placed on a Parr hydrogenator and evacuated. Hydrogen pressure (60 psi) was then applied and the vessel was shaken for 1 hour. The mixture was filtered through a pad of Celite and the filtrate was concentrated. The residue was dissolved in water (250 mL) and washed successively with ethyl acetate (3×200 mL) and chloroform (10×150 mL). The aqueous solution was saturated with NaCl and washed with dichloromethane (4×200 mL). The combined organic extract was concentrated and 5% aqueous NaHCO3 (200 mL) was added to the residue. The suspension was stirred for 30 minutes and then extracted with ethyl acetate (8×250 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated to afford a yellowish powder. The powder was then triturated with ethyl acetate (3×50 mL) and subjected to high vacuum (oil pump) to afford (3R)-1-[(1R,2R)-2-[2-(4-hydroxy-3-methoxy-phenyl)ethoxy]cyclohexyl]-3-pyrrolidinol (15.6 g, 43% yield) as a white powder; 1H NMR (400 MHz, CDCl3) δ 6.82 (d, 1H, J=8.0), 6.75 (br s, 1H), 6.70 (d, 1H, J=8.0), 4.30-4.20 (m, 1H), 3.87 (s, 3H), 3.78-3.70 (m, 1H), 3.56 (q, 1H), 3.33 (td, 1H, J=7.6, J=3.6), 2.97-2.89 (m, 1H), 2.84-2.75 (m, 3H), 2.65 (dd, 1H, J=10, J=5.2), 2.55-2.38 (m, 2H), 2.09-1.95 (m, 2H), 1.91-1.82 (m, 1H), 1.73-1.58 (m, 3H), 1.41-1.15 (m, 4H); 13C-NMR (100 MHz, CDCl3) δ 23.25, 23.68, 27.59, 29.21, 34.42, 36.70, 48.84, 56.06, 59.93, 63.68, 69.83, 71.29, 79.59, 111.98, 114.60, 121.65, 131.35, 144.23, 146.67; IR: 3436 (O—H stretch), 1591, 1515, 1272, 1098, 1030, 851 cm−1; MS (ESI) 336.2 (M+1)+.

reactant | (1R,2R)-1-{2-[2-(4-benzyloxy-3-methoxyphenyl)ethoxy]cyclohexyl}-(3R)-pyrrolidin-3-ol | 100 mmol, 50.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCO[C@H]1[C@@H](CCCC1)N1C[C@@H](CC1)O)OC | C26H35NO4
solvent | methanol | 250 mL | CO | CH4O
solvent | water | O | H2O
catalyst | Pd/C | 4.0 g | [Pd] | Pd
product | (3R)-1-[(1R,2R)-2-[2-(4-hydroxy-3-methoxy-phenyl)ethoxy]cyclohexyl]-3-pyrrolidinol | 15.6 g, 43% yield | OC1=C(C=C(C=C1)CCO[C@H]1[C@@H](CCCC1)N1C[C@@H](CC1)O)OC | C19H29NO4
